US07943629B2
(5-Bromo-2-chloropyrimidin-4-yl)cyclopropylamine
In analogy to compound 1.1, a solution of 1.0 g (4.39 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 15 ml of acetonitrile is reacted with 0.27 g (4.74 mmol) of cyclopropylamine in the presence of 0.74 ml (5.3 mmol) of triethylamine. Purification by chromatography (silica gel, ethyl acetate/hexane with ethyl acetate 0-100%) results in 0.76 g (70% of theory) of the product.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 4.39 mmol, 1.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | cyclopropylamine | 4.74 mmol, 0.27 g | C1(CC1)N | C3H7N
reactant | triethylamine | 5.3 mmol, 0.74 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (5-Bromo-2-chloropyrimidin-4-yl)cyclopropylamine | BrC=1C(=NC(=NC1)Cl)NC1CC1 | C7H7BrClN3
